US06320050B1
A mixture of 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid ethyl ester (1.65 g, 5.89 mmol) and methyl urea (654 mg, 8.83 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 16.9 mL, 11.78 mmol) was refluxed at 100° C. for 6 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 1-[2-(4-chloro-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea (105.3 mg, 5.8%) as a white solid: mp 145-147° C.; EI-HRMS m/e calcd for C16H21ClN2O2 (M+) 308.1292, found 308.1291. The methyl ester of the starting material was recovered from the reaction mixture due to transesterification.

reactant | 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid ethyl ester | 5.89 mmol, 1.65 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O | C16H21ClO2
reactant | methyl urea | 8.83 mmol, 654 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 11.78 mmol, 16.9 mL | CO | CH4O
product | 1-[2-(4-chloro-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea | 105.3 mg, 5.8% | ClC1=CC=C(C=C1)C(C(=O)NC(=O)NC)CC1CCCC1 | C16H21ClN2O2
